US05098892
By reacting 7 g of N-(indan-2-yl)glycine tert-butyl ester with 8.5 g of N-(carboxybenzoxy)-L-leucine and treating the reaction mixture as in Reference Example 5, there is obtained 3.5 g of L-leucyl-N-(indan-2-yl)glycine tert-butyl ester as colorless amorphous powder.

reactant | N-(indan-2-yl)glycine tert-butyl ester | 7 g | C(C)(C)(C)OC(CNC1CC2=CC=CC=C2C1)=O | C15H21NO2
reactant | N-(carboxybenzoxy)-L-leucine | 8.5 g | C(=O)(O)C(C1=CC=CC=C1)ON[C@@H](CC(C)C)C(=O)O | C14H19NO5
product | L-leucyl-N-(indan-2-yl)glycine tert-butyl ester | 3.5 g | C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](N)CC(C)C)=O)=O | C21H32N2O3
